US06818774B2
a) 6-(4-Fluoro-benzyloxy)-1,2,3,4-tetrahydro-isoquinoline
As described for example 43, the title compound (1.86 g, 98%) was prepared from a mixture of 6-(4-fluoro-benzyloxy)-3,4-dihydro-2H-isoquinolin-1-one (2 g, 7.37 mmol) and lithium aluminum hydride (0.559 g, 14.74 mmol) in tetrahydrofuran. MS: m/e=258.0 (M+H+)

reactant | 6-(4-fluoro-benzyloxy)-3,4-dihydro-2H-isoquinolin-1-one | 7.37 mmol, 2 g | FC1=CC=C(COC=2C=C3CCNC(C3=CC2)=O)C=C1 | C16H14FNO2
reactant | lithium aluminum hydride | 14.74 mmol, 0.559 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(4-Fluoro-benzyloxy)-1,2,3,4-tetrahydro-isoquinoline | 1.86 g, 98% | FC1=CC=C(COC=2C=C3CCNCC3=CC2)C=C1 | C16H16FNO
